US08809363B2
Ethoxy[4-(2-hydroxy-4-methylphenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetic acid
To a stirred solution of [4-(2-Allyloxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-hydroxy-acetic acid ethyl ester (100 mg, 221 μmols, 1 eq) in MeCN (5 mL) was added silver oxide (102 mg, 442 μmols, 2 eq) followed by iodoethane (172 mg, 89 uL, 5 eq) and the reaction was stirred for 16 hours at 60° C. Additional iodoethane (1 mL, 50 eq) and silver (I) oxide (102 mg, 2 eq) was added and the reaction was continued to be heated at 60° C. for 16 hours. The reaction was diluted with MeCN (5 mL), and filtered. The filtrate was then concentrated in vacuo. The residue was purified using ISCO Companion with a Redisep silica gel 12 g cartridge and a gradient of heptane and ethyl acetate (0% to 30%). Fractions containing [4-(2-allyloxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-ethoxy-acetic acid ethyl ester were combined and concentrated in vacuo to give the desired product as a pale orange oil, 22 mg (22% yield). LC-MS (12 min acidic) 7.55 mins 100% pure by UV, ES+/APCI+ 480.

reactant | [4-(2-Allyloxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-hydroxy-acetic acid ethyl ester | 221 μmols, 100 mg, 1 eq | C(C)OC(C(O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=C(C=C(C=C1)C)OCC=C)=O | C26H29NO4S
reactant | iodoethane | 89 uL, 172 mg, 5 eq | ICC | C2H5I
reactant | iodoethane | 1 mL, 50 eq | ICC | C2H5I
solvent | MeCN | 5 mL | CC#N | C2H3N
solvent | MeCN | 5 mL | CC#N | C2H3N
catalyst | silver oxide | 442 μmols, 102 mg, 2 eq | [Ag]=O
catalyst | silver (I) oxide | 102 mg, 2 eq | [Ag-]=O
product | Ethoxy[4-(2-hydroxy-4-methylphenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetic acid | 22% yield | C(C)OC(C(=O)O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=C(C=C(C=C1)C)O | C23H25NO4S
